US06251911B1
A mixture of 145.4 g (422 mmol) of 3-[3-(N-Boc-aminomethyl)-phenylamino]-2-cyano-3-methylmercapto-acrylonitrile, 21.96 ml (443 mmol) of hydrazine hydrate and 1000 ml of methanol is heated under reflux for 2 hours and then concentrated by evaporation in vacuo, yielding 5-amino-[3(N-Boc-aminomethyl)-phenylamino]4-cyano-pyrazole; TLC-Rf=0.28 (methylene chloride/methanol [9:1]).

reactant | 3-[3-(N-Boc-aminomethyl)-phenylamino]-2-cyano-3-methylmercapto-acrylonitrile | 422 mmol, 145.4 g | C(=O)(OC(C)(C)C)NCC=1C=C(C=CC1)NC(=C(C#N)C#N)SC | C17H20N4O2S
reactant | hydrazine hydrate | 443 mmol, 21.96 ml | O.NN
solvent | methanol | 1000 ml | CO | CH4O
product | 5-amino-[3(N-Boc-aminomethyl)-phenylamino]4-cyano-pyrazole | NC1=C(C(=NN1)NC1=CC(=CC=C1)CNC(=O)OC(C)(C)C)C#N | C16H20N6O2
